US09238639B2
(6-((1,3-Dimethyl-1H-pyrazol-5-yl)methoxy)-4-methyl-1-benzothiophen-3-yl)acetic acid
To a mixture of methyl(6-((1,3-dimethyl-1H-pyrazol-5-yl)methoxy)-4-methyl-1-benzothiophen-3-yl)acetate (143 mg) and EtOH (2 mL) was added 1N NaOH (0.42 mL) at room temperature, and the mixture was refluxed for 30 min. The mixture was neutralized with 1N HCl at room temperature and extracted with EtOAc. The organic layer was separated, washed with brine, dried over MgSO4 and concentrated in vacuo. The residual solid was crystallized from EtOAc-hexane to give the title compound (109 mg).

reactant | methyl(6-((1,3-dimethyl-1H-pyrazol-5-yl)methoxy)-4-methyl-1-benzothiophen-3-yl)acetate | 143 mg | COC(CC1=CSC2=C1C(=CC(=C2)OCC2=CC(=NN2C)C)C)=O | C18H20N2O3S
reactant | NaOH | 1N, 0.42 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | EtOH | 2 mL | CCO | C2H6O
product | (6-((1,3-Dimethyl-1H-pyrazol-5-yl)methoxy)-4-methyl-1-benzothiophen-3-yl)acetic acid | 109 mg | CN1N=C(C=C1COC1=CC2=C(C(=CS2)CC(=O)O)C(=C1)C)C | C17H18N2O3S
